US05159082
4.28 g (20 mmol) of sodium 1-naphthalenesulfinate, 4.14 g (20 mmol) of 1-bromonaphthalene, 0.0225 g (0.1 mmol) of palladium acetate, 0.0478 g (0.12 mmol) of 1,2-bis(diphenylphosphino)ethane, 6.73 g (120 mmol) of calcium oxide and 60 ml of N-methyl-2-pyrrolidone were placed in a 100 ml round bottom flask and reacted at 150° C. in a nitrogen gas stream for 8 hours. After the completion of the reaction, the reaction mixture was analyzed by means of high performance liquid chromatography. The analysis showed that 12.8 mmol (yield 64%) of 1,1'-binaphthyl was formed in the reaction mixture solution.

reactant | sodium 1-naphthalenesulfinate | 20 mmol, 4.28 g | C1(=CC=CC2=CC=CC=C12)S(=O)[O-].[Na+]
reactant | 1-bromonaphthalene | 20 mmol, 4.14 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | calcium oxide | 120 mmol, 6.73 g | [O-2].[Ca+2]
catalyst | palladium acetate | 0.1 mmol, 0.0225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,2-bis(diphenylphosphino)ethane | 0.12 mmol, 0.0478 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 1,1'-binaphthyl | 12.8 mmol, yield 64% | C1(=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H14
